US06274735B1
The reaction flask was charged under argon with 3.45 g of magnesium (142 mmol). A solution of 21.16 g of methyl iodide (147 mmol) in 120 mL of tert-butyl-methyl-ether was added during 45 min at 45° C. under stirring. Then stirring was continued for 1 h at 45° C. and then a solution of 27.12 g of 4-benzyloxyacetophenone (120 mmol) in 100 mL of tetrahydrofuran was added during 45 min., while a temperature of 45° C. was again maintained. Stirring at 45° C. was continued for 1.5 h. After cooling to room temperature, the white suspension was poured into a mixture of 100 mL of 10% aqueous ammonium chloride and of ice and extracted with 150 mL of ethyl acetate. The aqueous phase was separated and extracted with 100 mL of ethyl acetate. The organic phase was washed with 120 mL of 20% aq. sodium chloride, combined, dried (MgSO4) and evaporated under reduced pressure to give 29.9 g of crude product as an oil which partially crystallised. The crude product was taken up in 30 mL of dichloromethane. The solution was concentrated at the rotary evaporator almost to dryness. Then 6 mL of ethyl acetate was added followed by gradual addition of a total of 180 mL of hexane. The suspension was then kept at 0° C. for 30 min. The crystals were collected and washed with cold hexane. After drying for 2 h at 16 mbar/45° C., 26.7 g (92%) 2-(4-benzyloxy-phenyl)-propan-2-ol was obtained.

reactant | magnesium | 142 mmol, 3.45 g | [Mg] | Mg
reactant | methyl iodide | 147 mmol, 21.16 g | CI | CH3I
reactant | 4-benzyloxyacetophenone | 120 mmol, 27.12 g | CC(=O)C1=CC=C(C=C1)OCC2=CC=CC=C2 | C15H14O2
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | tert-butyl-methyl-ether | 120 mL | C(C)(C)(C)OC | C5H12O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(4-benzyloxy-phenyl)-propan-2-ol | 26.7 g, 92% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C)(C)O | C16H18O2
